US07507762B2
2-Chloroacetamido-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
The title compound was prepared from 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene and chloroacetyl chloride as a yellow solid by a procedure similar to that described for Example 80. 1H NMR (CDCl3): 8.26 (s, 1H), 6.97-6.80 (m, 3H), 6.50-6.46 (m, 1H), 6.33 (d, J=2.4, 1H), 4.73 (s, 3H), 4.23 (s, 2H), 3.85 (s, 3H), 3.83 (s, 3H), 2.95 (s, 6H).

reactant | 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H20BrN3O3
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloroacetamido-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | ClCC(=O)NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C22H21BrClN3O4
